US04906621
A solution of 278 mg of cis-4-diethylphosphonomethyl-2-piperidinecarboxamide in 5 ml of methylene chloride to which is added 0.43 ml of trimethylsilyl iodine is stirred at room temperature for 16 hours. The mixture is evaporated to dryness, the residue is dissolved in water, and the solution is evaporated to dryness. A solution of the resulting solid in ethanol is treated with 0.21 ml of propylene oxide to yield cis-4-phosphonomethyl-2-piperidinecarboxamide, m.p. 295°-298° dec.

reactant | cis-4-diethylphosphonomethyl-2-piperidinecarboxamide | 278 mg | C(C)OP(=O)(OCC)C[C@@H]1C[C@@H](NCC1)C(=O)N | C11H23N2O4P
reactant | trimethylsilyl iodine | 0.43 ml | C[Si](C)(C)I | C3H9ISi
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | cis-4-phosphonomethyl-2-piperidinecarboxamide | P(=O)(O)(O)C[C@@H]1C[C@@H](NCC1)C(=O)N | C7H15N2O4P
